US08632767B2
Stage 4: 5-[3-(Difluoromethyl)-1H-1,2,4-triazol-1-yl]-2,4-dimethylbenzenesulphonyl chloride
Under a nitrogen atmosphere, 14.2 g of chlorosulphonic acid are introduced and are admixed at room temperature, in portions, with 4 g of 3-(difluoromethyl)-1-(2,4-dimethylphenyl)-1H-1,2,4-triazole. The exothermic reaction raises the temperature of the mixture to around 45° C. The mixture is subsequently stirred at 70° C. for 5 hours and then cooled, and diluted with 20 ml of methylene chloride. The mixture is added with stirring to 40 g of ice and then the phases are separated and extracted with twice 20 ml of methylene chloride. The combined organic phases are concentrated on a rotary evaporator. This gives 4.5 g of brown oil. This oil is chromatographed using CH2Cl2. A white solid (2.9 g; 52% of theory) is isolated.

reactant | chlorosulphonic acid | 14.2 g | ClS(=O)(=O)O | ClHO3S
reactant | 3-(difluoromethyl)-1-(2,4-dimethylphenyl)-1H-1,2,4-triazole | 4 g | FC(C1=NN(C=N1)C1=C(C=C(C=C1)C)C)F | C11H11F2N3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-[3-(Difluoromethyl)-1H-1,2,4-triazol-1-yl]-2,4-dimethylbenzenesulphonyl chloride | FC(C1=NN(C=N1)C=1C(=CC(=C(C1)S(=O)(=O)Cl)C)C)F | C11H10ClF2N3O2S
